US07994203B2
Step 1: 2-(5-Methyl-3-trifluoromethyl-[1,2,4]triazol-1-yl)-3-oxo-butyric acid ethyl ester:
To a stirring solution of 5-methyl-3-(trifluoromethyl)-1H-1,2,4-triazole (2 g, 13.24 mmol) in THF (60 ml) is added K2CO3 (3.66 g, 26.5 mmol). The mixture is allowed to stir for 20 minutes at 40° C. before adding ethyl 2-chloro-3-oxobutanoate (2.61 g, 15.88 mmol) and leaving to stir. The reaction mixture is filtered to remove solids, before concentrating under vacuum to yield a dark orange/red oil. The oil is taken up in 2% MeOH in DCM and purified on silica eluting with 2% MeOH in DCM to afford the title compound as a pale yellow oil. MS m/z 280.0 [M+H]+

reactant | 5-methyl-3-(trifluoromethyl)-1H-1,2,4-triazole | 13.24 mmol, 2 g | CC1=NC(=NN1)C(F)(F)F | C4H4F3N3
reactant | K2CO3 | 26.5 mmol, 3.66 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2-chloro-3-oxobutanoate | 15.88 mmol, 2.61 g | ClC(C(=O)OCC)C(C)=O | C6H9ClO3
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(5-Methyl-3-trifluoromethyl-[1,2,4]triazol-1-yl)-3-oxo-butyric acid ethyl ester | C(C)OC(C(C(C)=O)N1N=C(N=C1C)C(F)(F)F)=O | C10H12F3N3O3
